US05593660
a) 5-Methoxyacetylamino-2,4,6-triiodoisophthalic acid-N-(2,3-diacetoxypropyl)-amide-chloride
24.7 g (150 mmol) of methoxyacetyl chloride is added to a suspension of 73.4 g (100 mmol) of 5-amino-2,4,6-triiodoisophthalic acid-N-(2,3-diacetoxypropyl)-amide-chloride (EP 0308364) in 500 ml of anhydrous dioxane, stirred with exclusion of moisture, at room temperature. The batch is refluxed for several hours, until, according to thin-layer chromatography, feedstock is no longer detectable, then it is concentrated by evaporation, the residue is taken up in dichloromethane and shaken out with saturated aqueous sodium bicarbonate solution. After drying on anhydrous magnesium sulfate, the organic phase is concentrated by evaporation, and the residue is recrystallized from ethyl acetate/tert-butyl methyl ether.

reactant | methoxyacetyl chloride | 150 mmol, 24.7 g | COCC(=O)Cl | C3H5ClO2
reactant | 5-amino-2,4,6-triiodoisophthalic acid-N-(2,3-diacetoxypropyl)-amide-chloride | 100 mmol, 73.4 g | [Cl-].C(C)(=O)OC(CNC(C1=C(C(C(=O)O)=C(C(=C1I)N)I)I)=O)COC(C)=O
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 5-Methoxyacetylamino-2,4,6-triiodoisophthalic acid-N-(2,3-diacetoxypropyl)-amide-chloride | [Cl-].C(C)(=O)OC(CNC(C1=C(C(C(=O)O)=C(C(=C1I)NC(COC)=O)I)I)=O)COC(C)=O | InChI=1S/C18H19I3N2O9.ClH/c1-7(24)31-5-9(32-8(2)25)4-22-17(27)11-13(19)12(18(28)29)15(21)16(14(11)20)23-10(26)6-30-3;/h9H,4-6H2,1-3H3,(H,22,27)(H,23,26)(H,28,29);1H/p-1
